US04797413
Step A: Preparation of α-Methylene-4-methoxybenzenepropanoic acid
4-Methoxybenzylmalonic acid, (20.2 g., 0.09 mol) was suspended in N,N,N1, N1 -tetramethylmethanediamine (45 ml). Acetic anhydride (45 ml) was added dropwise, keeping the temperature below 45° C. by cooling in an ice-bath as necessary. The resulting clear solution was stirred for 11/2 hour at ambient temperature and then was poured into ice and water. The white solid product was collected, combined with comparable product from a second 0.083 mol run, and dried at 0.1 mm at room temperature to give 22.4 g. (68%) of product, m.p. 88°-91° C. A sample recrystallized from ether-petroleum ether melted at 90°-93° C.

reactant | 4-Methoxybenzylmalonic acid | COC1=CC=C(CC(C(=O)O)C(=O)O)C=C1 | C11H12O5
reactant | Acetic anhydride | 45 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | α-Methylene-4-methoxybenzenepropanoic acid | C=C(C(=O)O)CC1=CC=C(C=C1)OC | C11H12O3
